US03956495
Ten grams of 2,4-dichloroquinazoline was added carefully to a solution of 25 ml of pyrrolidine in 200 ml of tetrahydrofuran. The resulting mixture was heated at reflux overnight and then was poured into a mixture of ice and water. The resulting mixture was extracted several times with ether. The ether extracts were combined and washed with water. The ether phase then was dried over anhydrous sodium sulfate. The solvent was removed by distillation and the residue was recrystallized from a 1:1 benzene:hexane mixture to give 10.1 g of 2,4-bispyrrolidinylquinazoline; m.p. 127°-129°. The following analytical data were obtained:

reactant | 2,4-dichloroquinazoline | Ten grams | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | pyrrolidine | 25 ml | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,4-bispyrrolidinylquinazoline | 10.1 g | N1(CCCC1)C1=NC2=CC=CC=C2C(=N1)N1CCCC1 | C16H20N4
